US09216980B2
6-Pyridin-3-yl-3-[4-(4-trifluoromethylpiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
To a mixture of pyridine-2-boronic acid (27 mg, 0.22 mmol), 6-bromo-3-[4-(4-trifluoromethyl-piperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (55 mg, 0.11 mmol) and 1,1′-[bis(diphenylphosphino)ferrocene]-dichloropalladium(II) (9 mg, 0.011 mmol) in acetonitrile (1 mL) and saturated aqueous sodium carbonate solution (1 mL) was heated under microwave irradiation at 140° C. for 30 minutes. The cooled reaction mixture was partitioned between DCM and water and the phases were separated using a hydrophobic frit and the organic phase evaporated. The residue was purified HPLC (C18 column, 50-98% MeCN in water (containing 20 mM triethylamine) over 30 minutes and the fractions containing pure product combined and concentrated then freeze-dried to afford the title compound (6 mg, 11%). 1H NMR (CDCl3 plus CD3OD, 400 MHz): 9.22 (dd, J=2.3, 0.8 Hz, 1H), 9.05 (d, J=1.1 Hz, 1H), 8.86-8.83 (m, 2H), 8.59-8.56 (m, 2H), 8.48-8.44 (m, 1H), 7.73-7.69 (m, 2H), 7.58-7.54 (m, 1H), 7.50 (d, J=8.0 Hz, 2H), 3.64 (s, 2H), 3.11-3.03 (m, 2H), 2.17-2.04 (m, 3H), 1.93-1.85 (m, 2H), 1.74-1.61 (m, 2H). LCMS (Method A): RT=5.43 min, M+H+=488.

reactant | pyridine-2-boronic acid | 0.22 mmol, 27 mg | N1=C(C=CC=C1)B(O)O | C5H6BNO2
reactant | 6-bromo-3-[4-(4-trifluoromethyl-piperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.11 mmol, 55 mg | BrC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCC(CC3)C(F)(F)F | C23H20BrF3N4
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | sodium carbonate | 1 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 6-Pyridin-3-yl-3-[4-(4-trifluoromethylpiperidin-1-ylmethyl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 6 mg, 11% | N1=CC(=CC=C1)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCC(CC3)C(F)(F)F | C28H24F3N5
